US07816558B2
Ethyl sulfanylacetate and triethylamine were dissolved in an ethanol solution of 5-[cyano({[(4-methylphenyl)sulfonyl]oxy}imino)methyl]-2-methoxybenzonitrile, followed by stirring for 5 hours under ice-cooling to obtain ethyl 4-amino-3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate. AP: 378.

reactant | Ethyl sulfanylacetate | SCC(=O)OCC | C4H8O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-[cyano({[(4-methylphenyl)sulfonyl]oxy}imino)methyl]-2-methoxybenzonitrile | C(#N)C(C=1C=CC(=C(C#N)C1)OC)=NOS(=O)(=O)C1=CC=C(C=C1)C | C17H13N3O4S
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-amino-3-(3-cyano-4-methoxyphenyl)isothiazole-5-carboxylate | NC=1C(=NSC1C(=O)OCC)C1=CC(=C(C=C1)OC)C#N | C14H13N3O3S
